US06610734B2
Tetramethylguanidine azide (TMGA) (5.398 g, 37.70 mmol) was added dropwise (5 min) to a 25° C. solution of (4R)-4-benzyl-3-[(2R)-2-bromo-3-butylheptanoyl]-1,3-oxazolidin-2-one (4.0 g, 9.42 mmol) in acetonitrile (50 mL). The reaction was stirred for 4 days. An aliquot was taken and TLC (1:4 EtOAc-hexane) indicated that reaction was complete. The solvent was removed in vacuo. The resulting black semi-solid was dissolved in CH2Cl2 (200 mL) and quenched with 1N HCl (30 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to obtain (4R)-3-[(2S)-2-azido-3-butylheptanoyl]-4-benzyl-1,3-oxazolidin-2-one as a crude yellow oil (3.61 g, 99.1%). Mass Spectrum (−ESI): 385 (M−H)−.

reactant | Tetramethylguanidine azide | 37.70 mmol, 5.398 g | [N-]=[N+]=[N-].CN(C(N(C)C)=N)C
reactant | (4R)-4-benzyl-3-[(2R)-2-bromo-3-butylheptanoyl]-1,3-oxazolidin-2-one | 9.42 mmol, 4.0 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(CCCC)CCCC)Br)=O | C21H30BrNO3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (4R)-3-[(2S)-2-azido-3-butylheptanoyl]-4-benzyl-1,3-oxazolidin-2-one | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C(CCCC)CCCC | C21H30N4O3
